US06436171B1
Preparation of Bis(salicylidene)-1,2-ethylenediamine (SalenH2)
Ethylenediamine (5.71 g, 0.095 mmol) was dissolved into toluene (60 ml). To it, a catalytic amount of acetic acid was added. Then, salicylaldehyde (23.20 g, 0.190 mmol) dissolved into toluene (60 ml) was dropwise added into the above solution. The resulting solution was then stirred at room temperature overnight. A yellowish crystalline product was precipitated. It was filtered, washed with ethanol, and dried. The yield was 23.7 g (93%). 1H NMR (300 MHz, CDCl3): δ=3.84 ppm (s, 4H), 6.85 ppm (t, 2H), 6.92 ppm (d, 2H), 7.17 ppm (m. 2H), 7.19 ppm (m, 2H), 8.28 ppm (s, 2H), 12.77 (s, broad, 2×OH); ESI MS: calcd. for C16H16N2O2, 268.3, found 269.2 (M+1); UV/Vis (λmax, nm, in methanol): 212, 255, 316, 400; IR (cm−1, nujol mull): 1610 (m, —C═N—).

reactant | Ethylenediamine | 0.095 mmol, 5.71 g | C(CN)N | C2H8N2
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | salicylaldehyde | 0.190 mmol, 23.20 g | C(C=1C(O)=CC=CC1)=O | C7H6O2
solvent | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
product | Bis(salicylidene)-1,2-ethylenediamine | C(C=1C(O)=CC=CC1)=NCCN=CC=1C(O)=CC=CC1 | C16H16N2O2
